US08957073B2
Step 3. (1H-benzoimidazol-2-yl)-[3-(5-bromo-2-chloro-pyrimidin-4-yl)-azetidin-1-yl]-methanone
To a solution of 4-azetidin-3-yl-5-bromo-2-chloro-pyrimidine hydrochloride (0.57 mg, 2.0 mmol) in DCM (20 mL) were added HATU (1.5 g, 4.0 mmol), TEA (404 mg, 4 mmol) and 1H-benzoimidazole-2-carboxylic acid (398 mg, 2.4 mmol). The reaction mixture was stirred at RT for 12 h. TLC showed that most of starting materials were consumed completely. Then the solution was washed with aqueous HCl (1 mol/L) (50 mL×3), saturated aqueous NaHCO3 (50 mL×3) and brine, dried over MgSO4. The solution was evaporated, the residue was purified by column chromatography to give the product (206 mg, 0.53 mmol, yield: 27%). ESI-MS (M+1): 392 calc. for C15H11BrClN5O 391

reactant | 4-azetidin-3-yl-5-bromo-2-chloro-pyrimidine hydrochloride | 2.0 mmol, 0.57 mg | Cl.N1CC(C1)C1=NC(=NC=C1Br)Cl
reactant | HATU | 4.0 mmol, 1.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1H-benzoimidazole-2-carboxylic acid | 2.4 mmol, 398 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (1H-benzoimidazol-2-yl)-[3-(5-bromo-2-chloro-pyrimidin-4-yl)-azetidin-1-yl]-methanone | 0.53 mmol, 206 mg, yield: 27% | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC(=NC=C2Br)Cl | C15H11BrClN5O
